US06107329
5-Chloro-1H-indole-2-carboxylic acid [1-(3-morpholin-4-yl-propylcarbamoyl)-2-phenyl-ethyl]-amide
4-(3-Aminopropyl)morpholine (0.34 mmol) and 2-[(5-chloro-1H-indole-2-carbonyl)-amino]-3-phenyl-propionic acid (0.30 mmol) were coupled according to Procedure A (0-25° C. reaction temperature) substituting the following workup: the reaction was diluted with ethyl acetate, the resulting solution washed three times with 2N NaOH and once with brine, dried over Na2SO4, and concentrated. The residue was stirred under ether for 1 hour, the solid filtered and dried: Yield 125 mg, 87%; HPLC (60/40) 2.85 minutes (98%); PBMS 469/471 (MH+, 100/90%);

reactant | 4-(3-Aminopropyl)morpholine | 0.34 mmol | NCCCN1CCOCC1 | C7H16N2O
reactant | 2-[(5-chloro-1H-indole-2-carbonyl)-amino]-3-phenyl-propionic acid | 0.30 mmol | ClC=1C=C2C=C(NC2=CC1)C(=O)NC(C(=O)O)CC1=CC=CC=C1 | C18H15ClN2O3
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-Chloro-1H-indole-2-carboxylic acid [1-(3-morpholin-4-yl-propylcarbamoyl)-2-phenyl-ethyl]-amide | N1(CCOCC1)CCCNC(=O)C(CC1=CC=CC=C1)NC(=O)C=1NC2=CC=C(C=C2C1)Cl | C25H29ClN4O3
